US07232825B2
HOBt:
1-hydroxybenzotriazole hydrate, EtOAc: ethyl acetate,

reactant | 1-hydroxybenzotriazole hydrate | O.ON1N=NC2=C1C=CC=C2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
